US04517185
5-(4-Dimethylaminophenyl)-5-hydroxy-4-phenyl-2-thioxo-3-pyrroline-3-carbonitrile
A mixture of 10.1 g. p-dimethylaminobenzil, 3.2 g. cyanothioacetamide, 10 drops of piperidine and 100 ml. ethanol is stirred for 12 hours at ambient temperature. The precipitated product is filtered off with suction, washed with chloroform and recrystallised from ethanol. There are obtained 6.0 g. of the desired product in the form of yellow crystals; m.p. 184°-185° C. (decomp.).

reactant | p-dimethylaminobenzil | CN(C1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1)C | C16H15NO2
reactant | cyanothioacetamide | C(#N)CC(=S)N | C3H4N2S
catalyst | piperidine | 10 drops | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-Dimethylaminophenyl)-5-hydroxy-4-phenyl-2-thioxo-3-pyrroline-3-carbonitrile | CN(C1=CC=C(C=C1)C1(C(=C(C(N1)=S)C#N)C1=CC=CC=C1)O)C | C19H17N3OS
